US07982071B2
tert-Butyl 3-(3-(cyclohexylmethoxy)phenyl)-2-hydroxypropylcarbamate and DAST are reacted together to give tert-butyl 3-(3-(cyclohexylmethoxy)phenyl)-2-fluoropropylcarbamate.

reactant | tert-Butyl 3-(3-(cyclohexylmethoxy)phenyl)-2-hydroxypropylcarbamate | C1(CCCCC1)COC=1C=C(C=CC1)CC(CNC(OC(C)(C)C)=O)O | C21H33NO4
reactant | DAST | CCN(CC)S(F)(F)F | C4H10F3NS
product | tert-butyl 3-(3-(cyclohexylmethoxy)phenyl)-2-fluoropropylcarbamate | C1(CCCCC1)COC=1C=C(C=CC1)CC(CNC(OC(C)(C)C)=O)F | C21H32FNO3
